US04675397
In 25 ml of tetrahydrofuran is dissolved 1 g of cis-3-phthalimido-4-(E)-styryl-1-(p-methoxyphenyl)-2-oxoazetidine and under stirring at -5° C. to -10° C., solution of ammonium, cerium (IV) nitrate (3 g) in 10 ml of water is added dropwise over a period of 5 minutes. Then, the mixture is stirred at -5° C. to 0° C. for 20 minutes. The tetrahydrofuran is distilled off under reduced pressure and the residue is shaken with ethyl acetate and water. The ethyl acetate layer is taken, washed with aqueous sodium sulfite and aqueous sodium chloride in this order and dried over anhydrous sodium sulfate. The solvent is then distilled off and the residue is purified by silica gel column chromatography [eluent:chloroform-ethyl acetate (7:3)] and crystallized from ethyl acetate-ether to give cis-3phthalimido-4-(E)-styryl-2-oxoazetidine, melting at 168°-170° C.

reactant | cis-3-phthalimido-4-(E)-styryl-1-(p-methoxyphenyl)-2-oxoazetidine | 1 g | C1(C=2C(C(N1[C@@H]1C(N([C@@H]1\C=C\C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O)=O)=CC=CC2)=O | C26H20N2O4
reactant | ammonium | [NH4+]
reactant | cerium (IV) nitrate | 3 g | [N+](=O)([O-])[O-].[Ce+4].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | cis-3phthalimido-4-(E)-styryl-2-oxoazetidine | C1(C=2C(C(N1[C@@H]1C(N[C@@H]1\C=C\C1=CC=CC=C1)=O)=O)=CC=CC2)=O | C19H14N2O3
